US04636519
Synthesis of 2-(1-imidazolyl)-2-(4-isobutyl-1,3-dithiolon-2-ylidene)acetonitrile (Compound Nos. 8 and 9)
To a mixed solution of 0.55 g (0.005 mole) of 1-cyanomethylimidazole, 0.4 g (0.005 mole) of carbon disulfide and 10 ml of dimethyl sulfoxide was added 0.8 g (0.014 mole) of potassium hydroxide powder with stirring, and the reaction was carried out at room temperature for 1 hour. Then, 1.5 g (0.006 mole) of 1,2-dibromo-4-methylpentane was added dropwise with stirring, and the resulting solution was subjected to reaction for 2 hours. After completion of the reaction, 20 ml of water was added to the reaction solution, after which the resulting mixture was subjected to extraction with ethyl acetate, and the organic layer was washed with water and dried. The solvent was distilled off and the residue was purified by silica gel chromatography to obtain 0.45 g of the Z isomer and 0.3 g on the E isomer individually in the form of colorless crystals.

reactant | 1-cyanomethylimidazole | 0.005 mole, 0.55 g | C(#N)CN1C=NC=C1 | C5H5N3
reactant | carbon disulfide | 0.005 mole, 0.4 g | C(=S)=S | CS2
reactant | potassium hydroxide | 0.014 mole, 0.8 g | [OH-].[K+]
reactant | 1,2-dibromo-4-methylpentane | 0.006 mole, 1.5 g | BrCC(CC(C)C)Br | C6H12Br2
solvent | water | 20 ml | O | H2O
solvent | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
product | 2-(1-imidazolyl)-2-(4-isobutyl-1,3-dithiolon-2-ylidene)acetonitrile | N1(C=NC=C1)C(C#N)=C1S(C=C(S1)CC(C)C)=O | C12H13N3OS2
